US09303045B2
Synthesis of 1-(methylsulfonyl)-1H-indazole-3-carboxylic acid
Methanesulfonyl chloride (48.1 μl, 0.617 mmol) was added to a solution of 1H-indazole-3-carboxylic acid (100 mg, 0.617 mmol) and triethylamine (86 μl, 0.617 mmol) in THF (1542 μl) and the mixture was stirred for 1 h. The reaction was then poured into water and extracted twice with EtOAc. The combined organic layers were filtered through MgSO4 and concentrated to give the title compound as a white solid, which was used without further purification.

reactant | Methanesulfonyl chloride | 0.617 mmol, 48.1 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1H-indazole-3-carboxylic acid | 0.617 mmol, 100 mg | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | triethylamine | 0.617 mmol, 86 μl | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | THF | 1542 μl | C1CCOC1 | C4H8O
product | 1-(methylsulfonyl)-1H-indazole-3-carboxylic acid | CS(=O)(=O)N1N=C(C2=CC=CC=C12)C(=O)O | C9H8N2O4S
